US09422281B2
A 200-mL round bottomed flask equipped with a magnetic stir bar was charged with a solution of (S)-2-methyl-1,2,3,4-tetrahydroquinoxaline (1.9 g, 12.82 mmol) in dichloromethane (30 mL). The solution was cooled to 0° C. and then di-tert-butyl dicarbonate (2.98 mL, 12.82 mmol) was added in one portion. The ice bath was left in place and allowed to slowly expire while the reaction mixture slowly warmed to rt. After 48 h, the reaction mixture was concentrated and the residue was purified via column chromatography on silica gel (eluting with 7:1 hexanes-ethyl acetate) to afford (S)-tert-butyl 3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (1.7 g, 53%) that was contaminated with ca. 2% of the undesired regioisomer. MS (ESI, pos. ion) m/z 149 [M−99].

reactant | (S)-2-methyl-1,2,3,4-tetrahydroquinoxaline | 12.82 mmol, 1.9 g | C[C@@H]1NC2=CC=CC=C2NC1 | C9H12N2
reactant | di-tert-butyl dicarbonate | 12.82 mmol, 2.98 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-tert-butyl 3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 1.7 g, 53% | C[C@H]1CN(C2=CC=CC=C2N1)C(=O)OC(C)(C)C | C14H20N2O2
